US07320994B2
(5-Bromo-pyrimidin-4-yl)-(2-chloro-phenyl)-methanol
Slowly add freshly prepared lithium diisopropylamide (0.5 M in ether) to a refluxing solution of 5-bromopyrimidine (4.03 g, 25.3 mmol) and 2-chloro-benzaldehyde (3.55 g, 25.2 mmol) in ether (100 mL). After addition is complete, stir at reflux for an additional 2 hours, then quench with 2N HCl (50 mL). Wash the organic layer with water (4×50 mL), dry, filter, and concentrate. Purify the crude material by flash chromatography using a linear gradient of 100% hexanes to 50% EtOAc/hexanes to give the title compound: MS (IS) 298.9 (M+1); 1H NMR (400 MHz, CDCl3) δ 9.19 (s, 1H), 8.77 (s, 1H), 7.40 (dd, 1H, J=1.4, 8.4), 7.23 (dt, 1H, J=1.9, 7.9), 7.15 (dt, 1H, J=1.4, 7.7), 6.92 (dd, 1H, J=1.5,7.9), 6.34 (d, 1H, J=6.4), 4.75 (d, 1H, J=6.7).

reactant | lithium diisopropylamide | 0.5 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | 5-bromopyrimidine | 25.3 mmol, 4.03 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | 2-chloro-benzaldehyde | 25.2 mmol, 3.55 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | ether | 100 mL | CCOCC | C4H10O
product | (5-Bromo-pyrimidin-4-yl)-(2-chloro-phenyl)-methanol | BrC=1C(=NC=NC1)C(O)C1=C(C=CC=C1)Cl | C11H8BrClN2O
